US06770637B2
b) 6-(3-Amino-prop-1-ynyl)-N-(3,5-bis-trifluoromethyl-benzyl)-N-methyl-4-o-tolyl-nicotinamide
A mixture of 206 mg (0.324 mmol) N-(3,5-bis-trifluoromethyl-benzyl)-6-[3-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-prop-1-ynyl]-N-methyl-4-o-tolyl-nicotinamide and 0.061 ml (0.97 mmol) hydrazine hydrate (51% hydrazine) in 3.5 ml ethanol was stirred at room temperature for 1 h. The reaction mixture was diluted with tert-butyl methyl ether and washed with 1N aqueous sodium hydroxide solution. The aqueous layer was extracted with three portions of tert-butyl methyl ether. The combined organic extracts were dried with sodium sulfate and concentrated. Column chromatography afforded 93 mg (57%) of the title compound as a light brown solid.

reactant | N-(3,5-bis-trifluoromethyl-benzyl)-6-[3-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-prop-1-ynyl]-N-methyl-4-o-tolyl-nicotinamide | 0.324 mmol, 206 mg | FC(C=1C=C(CN(C(C2=CN=C(C=C2C2=C(C=CC=C2)C)C#CCN2C(C3=CC=CC=C3C2=O)=O)=O)C)C=C(C1)C(F)(F)F)(F)F | C34H23F6N3O3
reactant | hydrazine hydrate | 0.97 mmol, 0.061 ml | O.NN
solvent | ethanol | 3.5 ml | C(C)O | C2H6O
solvent | tert-butyl methyl ether | COC(C)(C)C | C5H12O
product | 6-(3-Amino-prop-1-ynyl)-N-(3,5-bis-trifluoromethyl-benzyl)-N-methyl-4-o-tolyl-nicotinamide | 93 mg, 57% | NCC#CC1=NC=C(C(=O)N(C)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C(=C1)C1=C(C=CC=C1)C | C26H21F6N3O
